US07417049B2
(a) 5-Fluoro-2-tri-n-butylstannylfuran
5-Bromo-2-furoic acid (300 mg, 1.57 mmol) and sodium bicarbonate (316 mg, 3.76 mmol) was stirred in 3.5 mL of pentane/water (2:5) at room temperature for 5 minutes. 1-Chloromethyl-4-fluoro-1,4-diazobicyclo[2.2.2]octane bis-(tetrafluoroborate (“Selectfluor®”) (668 mg, 1.88 mmol) was added, and the mixture was stirred for another hour at room temperature. The pentane layer containing 5-bromo-2-fluorofuran was separated from the mixture, dried (MgSO4), and used for next step directly. The pentane solution of 5-bromo-2-fluorofuran was diluted with 3 mL of anhydrous ether, and cooled to −78° C. under nitrogen. n-Butyllithium (1.6M, 0.25 mL, 0.39 mmol) was added, and the solution was stirred at −78° C. for 10 minutes. Tri-n-butylstannyl chloride (127 mg, 0.39 mmol) then was added, and the solution was allowed to warm to room temperature, and stirred for another 20 minutes. The mixture was quenched and washed with 1N sodium hydroxide, then the organic layer was separated, dried through MgSO4, and filtered, and then the solvent was evaporated to give the sub-title compound (155 mg) as a brown oil which was used without further purification for the next step.

reactant | 5-Bromo-2-furoic acid | 1.57 mmol, 300 mg | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | sodium bicarbonate | 3.76 mmol, 316 mg | C([O-])(O)=O.[Na+]
reactant | tetrafluoroborate | 1.88 mmol, 668 mg | F[B-](F)(F)F
reactant | 5-bromo-2-fluorofuran | BrC1=CC=C(O1)F | C4H2BrFO
reactant | n-Butyllithium | 0.39 mmol, 1.6M, 0.25 mL | C(CCC)[Li]
reactant | Tri-n-butylstannyl chloride | 0.39 mmol, 127 mg | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | pentane water | 3.5 mL | CCCCC.O
solvent | pentane | CCCCC | C5H12
product | 5-Fluoro-2-tri-n-butylstannylfuran | 155 mg | FC1=CC=C(O1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C4H2FO.3C4H9.Sn/c5-4-2-1-3-6-4;3*1-3-4-2;/h1-2H;3*1,3-4H2,2H3;
